US05677302
The mixture of 2-mercaptobenzimidazole (29.30 g, 0.195 mole) and butyl isocyanate (48.3 mL, 0.33 mole) in a 500 ml of round-bottom flask equipped with a condenser was heated to 130°-140° C. in an oil bath for 45 min. After the reaction mixture was cooled to room temperature, the solid was filtered, washed with hexane, and dried under vacuum to give 43.48 g (89%) of 1-(butylcarbamoyl)-1,3-dihydrobenzimidazole-2-thione as white crystals: mp 179°-180° C.

reactant | 2-mercaptobenzimidazole | 0.195 mole, 29.30 g | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | butyl isocyanate | 0.33 mole, 48.3 mL | C(CCC)N=C=O | C5H9NO
product | 1-(butylcarbamoyl)-1,3-dihydrobenzimidazole-2-thione | 43.48 g, 89% | C(CCC)NC(=O)N1C(NC2=C1C=CC=C2)=S | C12H15N3OS
